US05665718
24.9 g (74.1 mmol) of 7-bromo-5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid were suspended in 100 ml of N,N-dimethylformamide, treated at room temperature with 14.3 g (89 mmol) of 1,1'-carbonyldiimidazole and stirred at 70° for 30 minutes. 50 ml of 25% ammonia were added dropwise at 25°-30°. The reaction mixture was diluted with 200 ml of water and cooled to 0°, and the crystallizate was filtered off under suction and dried. There were obtained 21.6 g (86%) of 7-bromo-5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxamide of m.p. 278°-279°.

reactant | 7-bromo-5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid | 74.1 mmol, 24.9 g | BrC1=CC=CC2=C1C(N(CC=1N2C=NC1C(=O)O)C)=O | C13H10BrN3O3
reactant | 1,1'-carbonyldiimidazole | 89 mmol, 14.3 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | ammonia | 50 ml | N | H3N
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | 200 ml | O | H2O
product | 7-bromo-5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxamide | 21.6 g, 86% | BrC1=CC=CC2=C1C(N(CC=1N2C=NC1C(=O)N)C)=O | C13H11BrN4O2
